US07491718B2
4-bromo-2-nitrobenzoic acid
A mixture of 4-bromo-2-nitrotoluene (10 g, 46.2 mmol), pyridine (85 mL) and water (65 mL) was heated to reflux and treated portionwise with potassium permanganate (21.9 g, 138.9 mmol) over 8 hours. Ethanol (7.8 mL) was added and the mixture was filtered while hot through diatomaceous earth (Celite ®). The filtrate was concentrated and partitioned between water (200 mL), 10% NaOH (25 mL), and diethyl ether (250 mL). The aqueous phase was acidified to pH 1 with concentrated HCl and the resulting solid was collected by filtration and dried to provide the desired product. MS (ESI(−)) m/e 244, 246 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 14.06 (br s, 1H), 8.28 (d, 1H), 7.99 (dd, 1H), 7.81 (d, 1H).

reactant | 4-bromo-2-nitrotoluene | 46.2 mmol, 10 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | pyridine | 85 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 65 mL | O | H2O
reactant | potassium permanganate | 138.9 mmol, 21.9 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | Ethanol | 7.8 mL | C(C)O | C2H6O
product | 4-bromo-2-nitrobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
